US09382228B2
A solution of 1-hydroxycyclopentanecarboxylic acid (1.4 g, 10.76 mmol) in MeOH (10 mL) was treated with cone. H2SO4 (1 drop), heated at 65° C. for 2 h, cooled to RT and concentrated to dryness. The residue was treated with satd. NaHCO3, extracted with DCM (3×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford methyl 1-hydroxycyclopentanecarboxylate (1.45 g, 92%). 1H NMR (400 MHz, CDCl3): δ 3.79 (s, 3H), 2.92 (br s, 1H), 2.11-2.00 (m, 2H), 1.91-1.83 (m, 2H), 1.82-1.72 (m, 4H).

reactant | 1-hydroxycyclopentanecarboxylic acid | 10.76 mmol, 1.4 g | OC1(CCCC1)C(=O)O | C6H10O3
reactant | MeOH | 10 mL | CO | CH4O
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | methyl 1-hydroxycyclopentanecarboxylate | 1.45 g, 92% | OC1(CCCC1)C(=O)OC | C7H12O3
